US07863271B2
A mixture of methyl 2-chlorobenzoxazole-4-carboxylate (750 mg, 3.54 mmol) and (3S,5S)-3-ethyl-5-methylmorpholine (1.00 g, 7.75 mmol) in THF (40 mL) was stirred at ambient temperature overnight. Then the reaction mixture was heated in a 50° C. oil bath for 4.5 h. The reaction mixture was cooled to ambient temperature and most of the THF was removed under reduced pressure. The residue was dissolved in EtOAc (150 mL) and washed with 0.5 N HCl (25 ml), H2O (25 mL), brine (25 mL), dried (Na2SO4), and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, hexanes to 10% EtOAc in hexanes) to give methyl 2-((3S,5S)-3-ethyl-5-methylmorpholino)benzoxazole-4-carboxylate (540 mg, 50%), as a colorless oil. 1H NMR consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 3.54 mmol, 750 mg | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | (3S,5S)-3-ethyl-5-methylmorpholine | 7.75 mmol, 1.00 g | C(C)[C@@H]1N[C@H](COC1)C | C7H15NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | methyl 2-((3S,5S)-3-ethyl-5-methylmorpholino)benzoxazole-4-carboxylate | 540 mg, 50% | C(C)[C@H]1COC[C@@H](N1C=1OC=2C(N1)=C(C=CC2)C(=O)OC)C | C16H20N2O4
